US05591862
According to the method described for Reference Example 23, methyl 4-(5-methyl-4-phenyl-2-thiazolylmethoxy)cinnamate was subjected to reduction with diisobutylaluminum hydride to give (E)-3-[4-(5-methyl-4-phenyl-2-thiazolylmethoxy)phenyl]-2-propen-1-ol. Recrystallization from ethyl acetate--isopropyl ether gave colorless prisms, m.p.125°-126° C.

reactant | methyl 4-(5-methyl-4-phenyl-2-thiazolylmethoxy)cinnamate | CC1=C(N=C(S1)COC1=CC=C(C=CC(=O)OC)C=C1)C1=CC=CC=C1 | C21H19NO3S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | (E)-3-[4-(5-methyl-4-phenyl-2-thiazolylmethoxy)phenyl]-2-propen-1-ol | CC1=C(N=C(S1)COC1=CC=C(C=C1)/C=C/CO)C1=CC=CC=C1 | C20H19NO2S
